US04088771
This example illustrates methods according to the invention of preparing the dialkyl substituted phenyl compounds of the invention. In this example, 50 ml. of isopropanol and 1.8 g. of sodium methoxide is added to a solution contraining 4.2 g. of the dihydrochloride salt of β-methylamino-β-(2,3-dimethylphenyl)-ethylamine dissolved in 10 ml. of water. The mixture is stirred for 15 minutes and then a solution containing 3.4 g. of a mixture of 1-mono and 1,3-bis(methoxycarbonyl)-S-methylisothiourea in 50 ml. of chloroform is added and then stirred for about two weeks at room temperature. The mixture is then concentrated by evaporation to near dryness and swirled with water, collected, and stirred in 50 ml. of aqueous 1 Normal hydrochloric acid for one hour. The resulting mixture is washed with ethyl ether, then treated with aqueous sodium bicarbonate and filtered. The collected solid is then stirred with distilled water, refiltered and washed in this manner three more times, then dried overnight at room temperature affording a crude product which is then puriified by recrystallization from isopropanol affording 1-methyl-4,5-dihydro-5-(2,3-dimethylphenyl)-2-methoxycarbonylaminoimidazole.

reactant | sodium methoxide | C[O-].[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | β-methylamino-β-(2,3-dimethylphenyl)-ethylamine | CNC(CN)C1=C(C(=CC=C1)C)C | C11H18N2
reactant | 1,3-bis(methoxycarbonyl)-S-methylisothiourea | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-methyl-4,5-dihydro-5-(2,3-dimethylphenyl)-2-methoxycarbonylaminoimidazole | CN1C(=NCC1C1=C(C(=CC=C1)C)C)NC(=O)OC | C14H19N3O2
